US08003783B2
STX804 9-Hydroxymethyl-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-2-ol (CAB03065):):
Palladium on charcoal (50 mg, 5% Pd) was added to a solution (2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-9-yl)-methanol (120 mg, 0.289 mmol, CAB03058) in THF (20 mL) and ethanol (20 mL). The resulting mixture was stirred under a hydrogen-atmosphere (balloon) for 24 hours, filtered through a 3 cm layer of celite and concentrated under reduced pressure. The residue was dried under high vacuum. Yield: 93 mg (99%) white solid. 1H-NMR (DMSO-d6, 270 MHz), δ: 0.82 (s, 3H, —CH3), 1.20-2.80 (m, 13H), 4.31 (s, 2H, —CH2OH), 4.95 (bs, 1H, —OH), 6.37 (s, 1H), 6.44 (d, J=8.5 Hz, 1H), 6.97 (d, J=8.5 Hz, 1H), 8.92 (s, 1H, —OH), 11.78 (bs, 1H, NH). LRMS (FAB+): 3.25.2 (100, [M]+). HRMS (FAB+): 325.192528 C20H25N2O2 requires 325.191603.

reactant | (2-Benzyloxy-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-9-yl)-methanol | 0.289 mmol, 120 mg | C(C1=CC=CC=C1)OC=1C=CC=2C3CCC4(C(C3CCC2C1)CC1=C(NN=C14)CO)C | C27H30N2O2
catalyst | Palladium on charcoal | 50 mg | [Pd] | Pd
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 9-Hydroxymethyl-6a-methyl-4b,5,6,6a,8,10,10a,10b,11,12-decahydro-7,8-diaza-pentaleno[2,1-a]phenanthren-2-ol | OCC1=C2CC3C(CCC4C=5C=CC(=CC5CCC34)O)(C2=NN1)C | C20H24N2O2
